US05200550
methylbenzoic acid
In a manner analogous to Example 2(c), starting with 1.38 g (3 mmoles) of allyl 4-[3-(1-adamantyl)-4-methoxybenzoyloxy]-2-methylbenzoate, 780 mg of 4-[3-(1-adamantyl)-4-methoxybenzoyloxy]-2-methylbenzoic acid having a melting point of 236°-237° C. are obtained.

reactant | allyl 4-[3-(1-adamantyl)-4-methoxybenzoyloxy]-2-methylbenzoate | 3 mmoles, 1.38 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC3=CC(=C(C(=O)OCC=C)C=C3)C)C=CC2OC | C29H32O5
reactant | 4-[3-(1-adamantyl)-4-methoxybenzoyloxy]-2-methylbenzoic acid | 780 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC3=CC(=C(C(=O)O)C=C3)C)C=CC2OC | C26H28O5
product | methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
